US05037829
To a solution of 5.9 parts of intermediate 61, namely ethyl [2-(hydroxymethyl)-4-[(1H-imidazol-1-yl)phenylmethyl]phenyl]carbamate, in 798 parts of dichloromethane were added 21.5 parts of manganese(IV)oxide and a catalytic amount of KMnO4. After stirring for 18 hours at room temperature, the reaction mixture was filtered over diatomaceous earth and the filtrate was evaporated. The residue was co-evaporated with methylbenzene and was further purified by column chromatography (silica gel; CHCl3 /CH3OH 95:5). The eluent of the desired fraction was evaporated and the residue was taken up in ethyl acetate. This solution was concentrated and left to crystallize. The crystallized product was filtered off, stirred in 2,2'-oxybispropane and dried in vacuo, yielding 2.85 parts (48.8%) of ethyl [2-formyl-4-[(1H-imidazol-1-yl)phenylmethyl]phenyl]carbamate; mp. 107.0° C. (interm. 62).

reactant | ethyl [2-(hydroxymethyl)-4-[(1H-imidazol-1-yl)phenylmethyl]phenyl]carbamate | OCC1=C(C=CC(=C1)C(C1=CC=CC=C1)N1C=NC=C1)NC(OCC)=O | C20H21N3O3
reactant | KMnO4 | [O-][Mn](=O)(=O)=O.[K+]
catalyst | manganese(IV)oxide | [O-2].[Mn+4].[O-2]
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl [2-formyl-4-[(1H-imidazol-1-yl)phenylmethyl]phenyl]carbamate | 48.8% | C(=O)C1=C(C=CC(=C1)C(C1=CC=CC=C1)N1C=NC=C1)NC(OCC)=O | C20H19N3O3
